US08980938B2
To a solution of 300 mg 4-Hydroxy-benzo[b]thiophene-5-carboxylic acid in 5 ml N,N-dimethylformamide were added 42 mg 1-hydroxy-benzotriaziole and 285 mg 2-amino-2-methyl-propionic acid tert-butyl ester hydrochloride. At 0° C. 0.77 ml (600 mg) ethyl-diisopropyl-amine and 444 mg (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride were added. After 16 h at room temperature 0.51 ml (400 mg) ethyl-diisopropyl-amine and 444 mg (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride were added, and after additional 16 h the reaction was diluted with ethyl acetate and washed with brine. The organic layer was dried over magnesium sulphate and concentrated. The resulting residue was purified by flash chromatography (silica, heptane/ethyl acetate) to afford 315 mg 2-[(4-hydroxy-benzo[b]thiophene-5-carbonyl)-amino]-2-methyl-propionic acid tert-butyl ester.

reactant | 4-Hydroxy-benzo[b]thiophene-5-carboxylic acid | 300 mg | OC1=C(C=CC=2SC=CC21)C(=O)O | C9H6O3S
reactant | 2-amino-2-methyl-propionic acid tert-butyl ester hydrochloride | 285 mg | Cl.C(C)(C)(C)OC(C(C)(C)N)=O
reactant | ethyl-diisopropyl-amine | 0.77 ml, 600 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride | 444 mg | Cl.CN(CCCN=C=NCC)C
reactant | ethyl-diisopropyl-amine | 0.51 ml, 400 mg | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride | 444 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(4-hydroxy-benzo[b]thiophene-5-carbonyl)-amino]-2-methyl-propionic acid tert-butyl ester | 315 mg | C(C)(C)(C)OC(C(C)(C)NC(=O)C1=C(C2=C(SC=C2)C=C1)O)=O | C17H21NO4S
